US03940393
[2,6-Diamino-5-(p-Chlorophenyl)-4-Pyrimidinyl] Methyl Ketone
A sample of [2,6-diamino-5-(p-chlorophenyl)-4-pyrimidinyl] methyl ketone, hydrochloride was dissolved in water and then precipitated with concentrated NH4OH to give the title compound, m.p. 206°-208°.

reactant | [2,6-diamino-5-(p-chlorophenyl)-4-pyrimidinyl] methyl ketone, hydrochloride | Cl.CC(=O)C1=NC(=NC(=C1C1=CC=C(C=C1)Cl)N)N
solvent | water | O | H2O
product | [2,6-Diamino-5-(p-Chlorophenyl)-4-Pyrimidinyl] Methyl Ketone | CC(=O)C1=NC(=NC(=C1C1=CC=C(C=C1)Cl)N)N | C12H11ClN4O
